US09387200B2
e) [(7-Hydroxy-3-indol-1-ylmethyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
The title compound was synthesized in analogy Example 1 from 7-hydroxy-3-indol-1-ylmethyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester and glycine: MS (m/z) 459.1 (M+1).

reactant | 7-hydroxy-3-indol-1-ylmethyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)C(=NS2)CN2C=CC1=CC=CC=C21)O | C26H23N3O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | [(7-Hydroxy-3-indol-1-ylmethyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | OC=1C2=C(C(=NC1C(=O)NCC(=O)O)C1=CC=CC=C1)C(=NS2)CN2C=CC1=CC=CC=C21 | C24H18N4O4S
